// Stavros Stathoudakis
simulator lang=spice

.INCLUDE "/CASNFSHOME/home/tsaikaterini/IHP/IHP_Generation_files/130ng/ihp013ng_include_all_fast.scs"
.INCLUDE "/CASNFSHOME/home/tsaikaterini/IHP/IHP_Generation_files/130ng/ixc013ng_stdcell_rc.scs"

.TEMP 0.0
.PARAM VVDVAL=0.960
.PARAM M=3
.PARAM Capacitance=0.0030166pf
VVDD VDD 0 'VVDVAL'
VGND VSS 0 0.000000
Vin  in1  0  PULSE(0 VVDVAL 5p 150p 150p 1n 2n)

// Chain
ncell1 vdd in10 out vdd vss NA2JIX0
ncell2 vdd out0 out2 vdd vss NA2JIX0
ncell3 vdd out20 out3 vdd vss NA2JIX0
ncell4 vdd out30 out4 vdd vss NA2JIX0
ncell5 vdd out40 out5 vdd vss NA2JIX0
ncell6 vdd out50 out6 vdd vss NA2JIX0
ncell7 vdd out60 out7 vdd vss NA2JIX0
ncell8 vdd out70 out8 vdd vss NA2JIX0
ncell9 vdd out80 out9 vdd vss NA2JIX0
ncell10 vdd out90 out10 vdd vss NA2JIX0
// Chain ends



//Wire load starts
.subckt Wire_delay in out
R1 in out 0.315827k
C1 out Capacitance*M
.ends Wire_delay

// Wire_delay RC delays instantiation
X_in1_wire in1 in10 Wire_delay
X_out_wire out out0 Wire_delay
X_out2_wire out2 out20 Wire_delay
X_out3_wire out3 out30 Wire_delay
X_out4_wire out4 out40 Wire_delay
X_out5_wire out5 out50 Wire_delay
X_out6_wire out6 out60 Wire_delay
X_out7_wire out7 out70 Wire_delay
X_out8_wire out8 out80 Wire_delay
X_out9_wire out9 out90 Wire_delay
X_out10_wire out10 out100 Wire_delay
//Wire load ends

.TRAN 1e-13 2e-09

// Measurement of delay
.meas tran delay_out6 when V(out60)='VVDVAL/2' rise=1
.meas tran delay_out8 when V(out80)='VVDVAL/2' rise=1
.meas tran delay_out8_out6 param='(delay_out8 - delay_out6)'

.ALTER
.TEMP 50.0 

.ALTER
.TEMP 125.0

* ---- Auto-generated corners (FF) ----
* VSTEP = 0.1

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.060

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.060

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.060

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.160

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.160

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.160

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.260

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.260

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.260

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.360

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.360

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.360

